US08008317B2
3-phenyl-2-(4-{[4-(5-pyridin-2-yl-1H-1,2,4-triazol-3-yl)piperidin-1-yl]methyl}phenyl)-1,6-naphthyridin-5(6H)-one (8-7)
A mixture of 5-methoxy-3-phenyl-2-(4-{[4-(5-pyridin-2-yl-1H-1,2,4-triazol-3-yl)piperidin-1-yl]methyl}phenyl)-1,6-naphthyridine (725 mg, 1.31 mmol) and pyridine hydrochloride (6.9 gm, ˜60 mmol) was heated at 150° C. for ten minutes. The cooled residue was dissolved in the minimum amount of water and neutralized with aqueous NaHCO3. The precipitated solid was collected by filtration and purified by column chromatography on silica gel eluting with 1-14% methanol/ethyl acetate (sat'd NH4OH). The isolated product was digested in methanol/acetonitrile to give pure product. 1H NMR (500 MHz, DMSO-d6): δ 11.58 (1H, d, J=4.8 Hz), 8.68 (1H, br s), 8.39 (1H, s), 8.03 (1H, d, J=7.3 Hz), 7.50 (2H, t, J=6.5 Hz), 7.31-7-33 (5H, m), 7.24-7.25 (4H, m), 6.79 (2H, d, J=7.3 Hz), 3.50 (2H, s), 2.84 (2H, br d, J=10.5 Hz), 2.72 (1H, m), 2.08 (2H, br t, J=11 Hz), 1.95 (2H, br d, J=11.6 Hz), 1.77 (2H, m). m/e (m+1): 540.3, 270.9 [(m+2)/2].

reactant | 5-methoxy-3-phenyl-2-(4-{[4-(5-pyridin-2-yl-1H-1,2,4-triazol-3-yl)piperidin-1-yl]methyl}phenyl)-1,6-naphthyridine | 1.31 mmol, 725 mg | COC1=C2C=C(C(=NC2=CC=N1)C1=CC=C(C=C1)CN1CCC(CC1)C1=NNC(=N1)C1=NC=CC=C1)C1=CC=CC=C1 | C34H31N7O
reactant | pyridine hydrochloride | ˜60 mmol, 6.9 gm | Cl.N1=CC=CC=C1
solvent | water | O | H2O
solvent | NaHCO3 | C(=O)(O)[O-].[Na+]
product | 3-phenyl-2-(4-{[4-(5-pyridin-2-yl-1H-1,2,4-triazol-3-yl)piperidin-1-yl]methyl}phenyl)-1,6-naphthyridin-5(6H)-one | C1(=CC=CC=C1)C=1C(=NC=2C=CNC(C2C1)=O)C1=CC=C(C=C1)CN1CCC(CC1)C1=NNC(=N1)C1=NC=CC=C1 | C33H29N7O
